US08242133B2
To a mixture of 0.67 g of 3-chloro-N-[5-chloro-2-hydroxy-4-(trifluoromethyl)phenyl]isonicotinamide, 7 ml of tetrahydrofuran and 0.55 g of triphenylphosphine, 0.91 g of 40% toluene solution of diethyl azodicarboxylate was added dropwise at room temperature. The reaction mixture was stirred for 1.5 hours. To the mixture, 0.14 g of triphenylphosphine and 0.23 g of 40% toluene solution of diethyl azodicarboxylate were added and stirred for further one hour. The reaction mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography, and the resultant crystals were washed with isopropanol and hexane to give 0.37 g of 5-chloro-2-(3-chloropyridin-4-yl)-6-(trifluoromethyl)benzoxazole (hereinafter, referred to as “active compound 79”).

reactant | 3-chloro-N-[5-chloro-2-hydroxy-4-(trifluoromethyl)phenyl]isonicotinamide | 0.67 g | ClC1=C(C(=O)NC2=C(C=C(C(=C2)Cl)C(F)(F)F)O)C=CN=C1 | C13H7Cl2F3N2O2
reactant | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
reactant | triphenylphosphine | 0.55 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
reactant | triphenylphosphine | 0.14 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | toluene | 0.23 g | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 0.91 g | C1(=CC=CC=C1)C | C7H8
product | 5-chloro-2-(3-chloropyridin-4-yl)-6-(trifluoromethyl)benzoxazole | 0.37 g | ClC=1C(=CC2=C(N=C(O2)C2=C(C=NC=C2)Cl)C1)C(F)(F)F | C13H5Cl2F3N2O
